US06294558B1
2-Bromo-1-(4-bromo-2-chlorophenyl)-1-ethanone (step 2)
To a stirred solution of 1-(4-bromo-2-chlorophenyl)-1-ethanone (11.58 g, 50 mmol) in dioxane (12 ml) was added a solution of bromine (8.12 g, 51 mmol) in dioxane (46 ml), and the mixture was stirred for 3 hours. Then the volatile was evaporated in vacuo. The residue was used for next reaction without purification. (15.6 g, 99% yield).

reactant | 1-(4-bromo-2-chlorophenyl)-1-ethanone | 50 mmol, 11.58 g | BrC1=CC(=C(C=C1)C(C)=O)Cl | C8H6BrClO
reactant | bromine | 51 mmol, 8.12 g | BrBr | Br2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 46 ml | O1CCOCC1 | C4H8O2
product | 2-Bromo-1-(4-bromo-2-chlorophenyl)-1-ethanone | 99% yield | BrCC(=O)C1=C(C=C(C=C1)Br)Cl | C8H5Br2ClO
